US06747032B2
Step A: 2,4-Dimethoxy-3-methyl-phenol
To 416 mmol of 2,4-dimethoxy-3-methyl-benzaldehyde dissolved in 200 ml of dichloromethane there are added 624 mmol of meta-chloroperbenzoic acid. The reaction mixture is heated at reflux for 5 hours before being filtered. The filtrate is washed three times using 200 ml of saturated NaHCO3 solution each time and then dried over magnesium sulphate. After evaporating off the solvent, the crude product is taken up in 400 ml of methanol. 624 mmol of 10% KOH solution are added. The mixture is stirred for one hour and is then adjusted to pH=4 using 1N hydrochloric acid solution. After stirring for one hour, the volume is reduced to ⅓. The crude product is taken up in 400 ml of water and extracted with dichloromethane. The organic phases are collected and dried. After evaporating off the solvents, the residue obtained is purified by chromatography on a silica column (eluant: cyclohexane/ethyl acetate 90/10) to yield the expected product.

reactant | 2,4-dimethoxy-3-methyl-benzaldehyde | 416 mmol | COC1=C(C=O)C=CC(=C1C)OC | C10H12O3
reactant | meta-chloroperbenzoic acid | 624 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | KOH | 624 mmol | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 400 ml | O | H2O
product | 2,4-Dimethoxy-3-methyl-phenol | COC1=C(C=CC(=C1C)OC)O | C9H12O3
